US07553967B2
Synthesis of 1-(4-chlorobenzoyl)-N′-hydroxy-6-methyl-1,2-dihydroquinoline-2-carboximidamide
To a solution of 1-(4-chlorobenzoyl)-6-methyl-1,2-dihydroquinoline-2-carbonitrile (200 mg) in methanol (1 mL) was added cold 1M hydroxylamine in methanol (971 μL). The reaction mixture was warmed to ambient conditions and stirred overnight. The methanol is removed in vacuo and the crude product is purified by liquid chromatography (gradient elution of acetonitrile (0.02% trifluoroacetic acid)/water (0.02% trifluoroacetic acid) through a reverse phase C18 column) to give the titled compound (25 mg, 11% yield) as a pale yellow solid. (M+H)+−342.

reactant | 1-(4-chlorobenzoyl)-6-methyl-1,2-dihydroquinoline-2-carbonitrile | 200 mg | ClC1=CC=C(C(=O)N2C(C=CC3=CC(=CC=C23)C)C#N)C=C1 | C18H13ClN2O
reactant | hydroxylamine | 1M | NO | H3NO
solvent | methanol | 1 mL | CO | CH4O
solvent | methanol | 971 μL | CO | CH4O
product | 1-(4-chlorobenzoyl)-N′-hydroxy-6-methyl-1,2-dihydroquinoline-2-carboximidamide | 25 mg, 11% yield | ClC1=CC=C(C(=O)N2C(C=CC3=CC(=CC=C23)C)C(N)=NO)C=C1 | C18H16ClN3O2
